* Z:\mnt\spice-netlists\LTC3862.asc
V1 IN 0 12
L1 N001 N002 90µ
L2 N002 IN 10µ
C1 OUT 0 {330µ/10}
D1 N001 OUT UPSC600
M§Q1 N002 N005 N007 N007 BSC028N06LS3
R1 N011 0 66.5K
R2 OUT N012 475K
R3 N012 0 4.87K
R4 IN N004 84.5K
R5 N004 0 24.9K
R6 N007 0 2m
C2 0 N003 4.7µ
XU1 0 NC_01 NC_02 0 N011 N014 N013 N012 0 NC_03 NC_04 0 N010 0 MP_05 N009 0 N005 N003 IN N004 0 N007 P001 LTC3862
C3 0 N014 .001µ
C4 0 P001 .001µ
C5 0 N013 .01µ
L3 N006 N008 90µ
L4 N008 IN 10µ
D2 N006 OUT UPSC600
M§Q2 N008 N009 N010 N010 BSC028N06LS3
R7 N010 0 2m
Rload OUT 0 60
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
* LTC3862 - Multi-Phase Current Mode Step-Up DC/DC Controller\nHigh Power, High Voltage Boost Converter with Tapped Inductor Topology\nInput: 12V     Output: 120V @ 2.0A
.tran 1m startup
K2 L3 L4 1
* 1:3 turns ratio
* Notes:\n  C1 has been reduced in value to speed up simulation.\n \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* 1:3 turns ratio
.lib LTC3862.sub
.backanno
.end
