* Z:\mnt\spice-netlists\LTC3872.asc
V1 IN 0 3.3
C1 IN 0 10µ
C2 OUT 0 47µ
C3 OUT 0 47µ
XU1 IN N005 N006 0 N003 IN N001 N002 LTC3872
C4 N004 0 1800p
R1 N005 N004 17.4K
C5 N005 0 47p
C6 N001 0 0.0022µ
L1 IN N002 1µ
M§Q1 N002 N003 0 0 FDC637AN
R2 N006 0 11K
R3 OUT N006 34.8K
D1 N002 OUT PMEG2020AEA
Rload OUT 0 2.5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 4.75m startup
* LTC3872 - No Rsense Current Mode Boost DC/DC Controller\n Input: 3V to 4.5V  Output: 5V @ 2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LTC3872.sub
.backanno
.end
