* Z:\mnt\spice-netlists\LTC3873.asc
M§Q1 N004 N006 N007 N007 FDC2512
V1 IN 0 48
C1 N008 0 .0022µ
C2 OUT 0 100µ x2
R1 OUT N010 21.5K
R2 N010 0 12.1K
L1 IN N004 155µ
L2 0 N001 4.3µ
C3 N003 0 1µ
D1 N001 OUT MBR735
R3 N007 0 68m
C4 N005 0 .01µ
C6 OUT N010 47p
R4 N008 N009 15K
L3 0 N002 38µ
D2 N002 P001 1N4148
R5 IN N003 100K
XU1 0 N009 N010 0 N006 N003 N005 N007 LTC3873
R6 P001 N003 100
Rload OUT 0 1.1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 25m startup
K1 L1 L2 L3 1
* Pulse
* PA1861NL
* LTC3873 - No Rsense(TM) Constant Frequency Current Mode Boost/Flyback/SEPIC DC/DC Controller\nInput: 48V            Output 3.3V @ 3A\nTelecom DC/DC Converter
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
.lib LTC3873.sub
.backanno
.end
