* Z:\mnt\spice-netlists\LTC3890.asc
V1 IN 0 48
M§Q1 IN N005 N010 N010 BSZ100N06LS3
M§Q2 N010 N013 0 0 IPD048N06L3
D1 N003 N007 MBRS1100
C1 N003 0 4.7µ
C2 N007 N010 .1µ
L1 N010 N011 6µ
R1 N011 OUT 2m
C3 OUT 0 22µ
M§Q3 IN N004 N009 N009 BSC100N06LS3
M§Q4 N009 N012 0 0 IPD048N06L3
D2 N003 N006 MBRS1100
C4 N006 N009 .1µ
L2 N009 N008 6µ
R2 N008 OUT 2m
C5 OUT 0 22µ
R3 OUT N014 499K
R4 N014 0 35.7K
C6 N015 0 2.2n
C7 N016 0 .001µ
XU1 OUT N017 N018 NC_01 NC_02 0 N002 N002 OUT N011 N014 N015 N016 N001 N005 N010 N007 N013 N003 OUT 0 IN N012 N006 N009 N004 N001 NC_03 N016 N015 N014 N008 LTC3890
C8 IN 0 2.2µ
C9 IN 0 2.2µ
C10 IN 0 2.2µ
C11 IN 0 2.2µ
C12 0 N015 100p
R5 IN N002 499k
R6 N002 0 40.2k
C13 OUT N014 15p
C14 OUT 0 150µ
C15 OUT 0 150µ
R7 N017 0 41.2K
C16 IN 0 47µ
R8 N003 N001 100K
Rload OUT 0 .48
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran .5m startup
* Notes:\n  \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
* LTC3890 - 60V Low IQ, Dual, 2-Phase Synchronous Step-Down DC/DC Controller\nInput: 16V up to 60V,   Output: 12V @ 25A\nConfigured as a Dual Phase Single Output for High Power, High Output Current Applications
.lib LTC3890.sub
.backanno
.end
