* Z:\mnt\spice-netlists\LTC3633A-2_F09.asc
V1 IN 0 12
C4 0 N001 2.2µ
L1 N006 OUT1 .68µ
C5 N004 N006 .1µ
R1 OUT1 N008 20K
R3 N008 0 10K
C1 OUT1 0 47µ
L2 N007 OUT2 1µ
C6 N005 N007 .1µ
R2 OUT2 N009 45.3K
R4 N009 0 10K
C2 OUT2 0 47µ
C3 IN 0 47µ
Rload1 OUT1 0 .6
Rload2 OUT2 0 1.1
R5 IN N002 100K
R8 IN N003 100K
C7 N010 0 1.2n
C8 0 N011 1.2n
XU1 N002 N001 IN N001 N001 IN 0 N003 N009 N011 N001 OUT2 N007 IN IN MP_01 N005 MP_02 N001 N004 IN MP_03 N006 MP_04 OUT1 N001 N010 N008 0 LTC3633A-2
.tran .64m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
* LTC3633A-2: Dual Channel 3A, 20V Monolithic Synchronous Step-Down Regulator\n1.8V/3.3V Buck Regulator\nInput: 3.6V to 20V       Output 1.8V @ 3A & 3.3V @ 3A    Fsw = 2MHz
.lib LTC3633A-2.sub
.backanno
.end
