* Z:\mnt\spice-netlists\LTC1702A.asc
L1 N004 OUT 1µ
R1 OUT N010 15.8K
R2 N010 0 12.7K
C1 IN 0 330µ
R3 IN N002 10
C2 N002 0 10µ
C3 N004 N001 1µ
D1 IN N001 MBR0520L
C4 OUT 0 180µ
C5 N009 N008 330p
R4 N009 N010 34K
R5 N007 0 11.5K
C6 N011 0 .01µ
V1 IN 0 5
C7 N005 N010 680p
C8 N010 N008 39p
M§Q1 N004 N006 0 0 Si4864DY
M§Q2 IN N003 N004 N004 Si4408DY
R6 N005 OUT 1.75K
D2 0 N004 MBRS340
I1 OUT 0 15A
XU1 IN N001 N006 N003 N004 N007 NC_01 0 N011 N008 0 N010 N002 MP_02 MP_03 MP_04 NC_05 MP_06 0 LTC1702A
C9 OUT 0 1µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m startup
* Panasonic SP-CAP\nEEFUE0G181R
* Sumida\nCEP125-1R0MC-HD
* LTC1702A - 15A 550kHz Synchronous Buck Converter\nInput: 5V      Output: 1.8V@15A
* Note: LTC1702A has two phases.  Only one phase is modeled here.
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* Active load
.lib LTC1702A.sub
.backanno
.end
