* Z:\mnt\spice-netlists\LTC3619B_DC1489A.asc
V1 IN 0 5
L1 N004 OUT1 3.3µ
L2 N003 OUT2 1.5µ
C1 OUT1 N006 10p
R1 OUT1 N006 1Meg
R2 N006 0 221K
C2 OUT1 0 4.7µ
R3 N007 0 110K
C3 N007 0 2200p
R4 OUT2 N005 1Meg
R5 N005 0 215K
XU1 N006 IN N007 N002 N004 IN N003 N001 IN N005 0 LTC3619B
C4 IN 0 10µ
R6 IN N001 200K
R7 IN N002 200K
C5 OUT2 0 {2200µ/10}
C6 OUT2 0 4.7µ
Rload1 OUT1 0 8.25
Rload2 OUT2 0 20
.tran 2m startup
* LTC3619B - 400mA / 800mA Synchronous Step-Down DC/DC with Average Input Current Limit\nInput: 4.5V - 5.5V     Outputs: 3.3V @ 0.4A and 3.4V @ 2A (Pulsed Load)
* 3.3V @ 0.4A
* 3.4V @ 2A Pulse Load
* Note:\n  C5's value has been reduced 10 fold to shorten simulation time.  It is intended to be a super cap that supports\n  a 2A pulsed load.\n \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.lib LTC3619B.sub
.backanno
.end
